US08975415B2
Under argon atmosphere, to a mixture of di-tert-butyl (6′-bromodispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl)imidodicarbonate (300 mg, 0.571 mmol), dioxane (3.0 mL) and water (1.5 mL) were added 1H-indazol-4-ylboronic acid (185 mg, 1.14 mmol), K2CO3 (237 mg, 1.71 mmol) and bis(triphenylphosphine)palladium(II) dichloride (40 mg, 0.057 mmol), and the mixture was stirred for 3 hours at 100° C. The reaction mixture was cooled down to ambient temperature, partitioned between H2O and 10% MeOH in CHCl3. The organic layer was dried over Na2SO4 and filtered, and the filtrate was concentrated at reduced pressure. The residue was dissolved with dioxane (3.0 mL), and silica gel (neutral; 900 mg) was added to the mixture. After stirring for 2.5 hours at 110° C., the reaction mixture was cooled down to ambient temperature, and concentrated at reduced pressure. Purification of the residue with column chromatography on silica gel (CHCl3-EtOH, a linear gradient of EtOH from 0 to 20%) afforded 6′-(1H-indazol-4-yl)dispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-amine (142 mg).

reactant | di-tert-butyl (6′-bromodispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl)imidodicarbonate | 0.571 mmol, 300 mg | BrC=1C=C2C3(N=C(OC3)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C3(COC3)COC2=CC1 | C23H29BrN2O7
reactant | dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
reactant | 1H-indazol-4-ylboronic acid | 1.14 mmol, 185 mg | N1N=CC2=C(C=CC=C12)B(O)O | C7H7BN2O2
reactant | K2CO3 | 1.71 mmol, 237 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.057 mmol, 40 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 1.5 mL | O | H2O
product | 6′-(1H-indazol-4-yl)dispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-amine | 142 mg | N1N=CC2=C(C=CC=C12)C=1C=C2C3(N=C(OC3)N)C3(COC3)COC2=CC1 | C20H18N4O3
